US03980795
A mixture of 30.2 g of 3-(4'-fluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester and 25 g of 100% strength hydrazine hydrate is heated at 100° for 4 hours. The mixture is worked up in the usual manner to give 3-(4'-fluoro-4-biphenylyl)-3-methyl-pyrazolidin-5-one, m.p. 194°-196 °.

reactant | 3-(4'-fluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester | 30.2 g | C(C)OC(CC(C)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)F)=O | C18H19FO3
reactant | hydrazine hydrate | O.NN
product | 3-(4'-fluoro-4-biphenylyl)-3-methyl-pyrazolidin-5-one | FC1=CC=C(C=C1)C1=CC=C(C=C1)C1(NNC(C1)=O)C | C16H15FN2O
